US09145441B2
Compound 81d. (E)-(R)-2-Cyclopropylmethyl-pent-3-enoic acid
A solution of (S)-4-benzyl-3-((E)-(R)-2-cyclopropylmethyl-pent-3-enoyl)-oxazolidin-2-one (3.50 g, 10.92 mmol) in tetrahydrofuran (75 mL) was cooled to 0° C. before addition of a 30% aqueous solution of hydrogen peroxide (5.8 mL, 56 mmol) and a solution of lithium hydroxide monohydrate (950 mg, 22.6 mmol) in water (37 mL). The reaction was stirred at 0° C. for 2.5 h. The reaction mixture was treated with an aqueous solution of sodium metabisulphite and stirred for 10 minutes before acidifying to pH 1 with hydrochloric acid (2 M). The mixture was extracted with ethyl acetate (3×50 mL). The extract was dried over anhydrous sodium sulfate, filtered and evaporated to give a colourless oil. The oil was purified by silica gel chromatography using iso-hexanes/ethyl acetate 7:3 to yield the title compound (1.32 g, 78%) as a colourless oil and as a mixture of 2.5:1 E/Z isomers. 1H NMR (300 MHz, CDCl3) δ 0.02-0.15 (m, 1.96H), 0.39-0.52 (m, 1.96H), 0.65-0.81 (m, 0.98H), 1.47-1.63 (m, 1.96H), 1.71 (d, J=6.7 Hz, 2.94H), 3.06-3.17 (m, 0.98H), 3.45-3.56 (m, 0.28H), 5.40-5.56 (m, 0.98H), 5.57-5.72 (m, 0.98H), 10.5-12.0 (bs, LCMS (m/z) 153.1 [M−H], Tr=1.91 min.

reactant | (S)-4-benzyl-3-((E)-(R)-2-cyclopropylmethyl-pent-3-enoyl)-oxazolidin-2-one | 10.92 mmol, 3.50 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](\C=C\C)CC1CC1)=O | C19H23NO3
reactant | hydrogen peroxide | 56 mmol, 5.8 mL | OO | H2O2
reactant | lithium hydroxide monohydrate | 22.6 mmol, 950 mg | O.[OH-].[Li+]
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | water | 37 mL | O | H2O
product | (E)-(R)-2-Cyclopropylmethyl-pent-3-enoic acid | 1.32 g, 78% | C1(CC1)C[C@@H](C(=O)O)\C=C\C | C9H14O2
